US05223619
1-[(2-Hydroxyethoxy)methyl]-5-(thiocarbamoyl)amino-1H-imidazole-4-carboxamide.
5-Amino-1-[[2-(acetyloxy)ethoxy]methyl]-1H-imidazole-4-carboxamide (44.0 g, 182 mM) and benzoylisothiocyanate (29.7 g, 182 mM) were refluxed in acetone (430 ml) for 1 hour. To the resulting solution were added methanol (430 ml) and potassium carbonate (14.9 g, 108 mM) dissolved in water (45 ml) whereafter the mixture was refluxed for 4 hours. After cooling to room temperature acetic acid was added to a pH-value of 8. The formed product was filtered off at 0° C., washed and dried. Hereby 39.2 g (83%) of the title compound was isolated as a white powder, mp. 181°-182° C. (dec.). A sample crystallized from water had mp. 182°-183° C. (dec.). 13C-NMR(DMSO-d6) δppm: 183.9; 163.7; 134.9; 129.3; 127.9; 74.0; 70.4; 59.7.

reactant | 5-Amino-1-[[2-(acetyloxy)ethoxy]methyl]-1H-imidazole-4-carboxamide | 182 mM, 44.0 g | NC1=C(N=CN1COCCOC(C)=O)C(=O)N | C9H14N4O4
reactant | benzoylisothiocyanate | 182 mM, 29.7 g | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | methanol | 430 ml | CO | CH4O
reactant | potassium carbonate | 108 mM, 14.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 430 ml | CC(=O)C | C3H6O
solvent | water | 45 ml | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[(2-Hydroxyethoxy)methyl]-5-(thiocarbamoyl)amino-1H-imidazole-4-carboxamide | 39.2 g, 83% | OCCOCN1C=NC(=C1NC(N)=S)C(=O)N | C8H13N5O3S
